US08211904B2
Step 3: 1-(3-isopropoxybenzyl)-2-methylpiperidin-4-one
In an alternative preparation, AlCl3 (15 g, 0.11 mole) was added to a 3-necked flask equipped with a jacketed addition funnel, flushed with argon and cooled in an ice bath. Crotonyl chloride (21 g, 200 mmol) was added dropwise while keeping the temperature of the reaction below 15° C. The resulting light yellow solution was stirred for 15 min before the ice bath was replaced with an ethyleneglycol/dry ice bath and the solution cooled to −20° C. Vinylsilane (21.1 ml, 220 mmol) was added dropwise from the ice-cooled jacketed addition funnel keeping the temperature of the reaction below −20° C. The reaction was stirred for 3 hr and then added quickly to a slurry of 200 mL saturated aqueous sodium/potassium tartrate solution, 200 g K2CO3, 300 mL ice and 500 mL ether. The slurry was stirred vigorously for 30 min then filtered through celite. The organic layer was separated, dried over Na2SO4, filtered and carefully concentrated. The oil was dissolved in 200 mL CH3CN and added dropwise to a cooled (0° C.) suspension of 3-(isopropoxy)benzylamine (30 g, 180 mmol) in a mixture of 2M aq NaHCO3 (100 mL) and CH3CN (30 mL). The reaction was stirred at rt overnight and partitioned between water and EtOAc. The organic layer was dried over Na2SO4, filtered and concentrated. The resulting oil was chromatographed on silica eluting with 0-50% EtOAc/Hexanes.

reactant | AlCl3 | 0.11 mole, 15 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | Crotonyl chloride | 200 mmol, 21 g | C(\C=C\C)(=O)Cl | C4H5ClO
reactant | Vinylsilane | 220 mmol, 21.1 ml | C(=C)[SiH3] | C2H6Si
reactant | sodium potassium tartrate | 200 mL | [Na].C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[K+]
reactant | K2CO3 | 200 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-(isopropoxy)benzylamine | 180 mmol, 30 g | C(C)(C)OC=1C=C(CN)C=CC1 | C10H15NO
solvent | NaHCO3 | 2M, 100 mL | C(=O)(O)[O-].[Na+]
solvent | CH3CN | 30 mL | CC#N | C2H3N
solvent | ether | 500 mL | CCOCC | C4H10O
product | 1-(3-isopropoxybenzyl)-2-methylpiperidin-4-one | C(C)(C)OC=1C=C(CN2C(CC(CC2)=O)C)C=CC1 | C16H23NO2
